US03996232
To 20 g (0.1 mole) of 2,4,6-trichloroaniline and 12.6 g (0.1 mole) of 1-methyl-3-cyanoguanidine in 10 ml (0.1 mole) of concentrated hydrochloric acid is added 125 ml of n-butanol. The reaction mixture is refluxed for 17 hours, cooled and the alcohol evaporated off. The residue is extracted with ether after making it alkaline with 40% sodium hydroxide. The ether extract is dried over potassium carbonate and evaporated. The residue is dissolved in methanol, the pH adjusted to about 7, charcoal filtered and evaporated. The residue is triturated with ether and the solid that forms is recrystallized from water to obtain 1-(2,4,6-trichlorophenyl)-5-methylbiguanide hydrochloride.

reactant | 2,4,6-trichloroaniline | 0.1 mole, 20 g | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
reactant | 1-methyl-3-cyanoguanidine | 0.1 mole, 12.6 g | CNC(=N)NC#N | C3H6N4
reactant | hydrochloric acid | 0.1 mole, 10 ml | Cl | ClH
solvent | n-butanol | 125 ml | C(CCC)O | C4H10O
product | 1-(2,4,6-trichlorophenyl)-5-methylbiguanide hydrochloride | Cl.ClC1=C(C(=CC(=C1)Cl)Cl)NC(=N)NC(=N)NC | InChI=1S/C9H10Cl3N5.ClH/c1-15-8(13)17-9(14)16-7-5(11)2-4(10)3-6(7)12;/h2-3H,1H3,(H5,13,14,15,16,17);1H
